US08648087B2
Step A: Preparation of 4-(2-methyl-4-nitrophenoxy)-2-nitrobenzenamine:
To a solution of 1-fluoro-2-methyl-4-nitrobenzene (2.02 g, 13.0 mmol) and 4-amino-3-nitrophenol (2.22 g, 14.4 mmol) in DMF (20 mL) was added cesium carbonate (5.28 g, 16.2 mmol). After heating to 60° C. for 10 hours, the mixture was diluted with water (100 mL) and filtered. The precipitate was washed with water and air-dried to provide the product (3.28 g, 87%) as dark solid.

reactant | 1-fluoro-2-methyl-4-nitrobenzene | 13.0 mmol, 2.02 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 4-amino-3-nitrophenol | 14.4 mmol, 2.22 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | cesium carbonate | 16.2 mmol, 5.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-(2-methyl-4-nitrophenoxy)-2-nitrobenzenamine | 3.28 g, 87% | CC1=C(OC2=CC(=C(C=C2)N)[N+](=O)[O-])C=CC(=C1)[N+](=O)[O-] | C13H11N3O5
